US04457925
9.0 g of 1α,2α-methylene-17β-(tetrahydropyran-2-yloxy)-5α-androstan-3-ol is allowed to stand in 20 ml of pyridine and 10 ml of acetic anhydride for 20 hours at room temperature. The solution is stirred into ice water, the resultant precipitate is filtered off, taken up in diethyl ether, washed with water, and dried. After evaporation, 11 g of 3-acetoxy-1α,2α-methylene-17β-(tetrahydropyran-2-yloxy)-5α-androstane is obtained.

reactant | 1α,2α-methylene-17β-(tetrahydropyran-2-yloxy)-5α-androstan-3-ol | 9.0 g | C1[C@H]2[C@@H]1C(C[C@@H]1CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]21C)OC2OCCCC2)O | C25H40O3
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 3-acetoxy-1α,2α-methylene-17β-(tetrahydropyran-2-yloxy)-5α-androstane | 11 g | C(C)(=O)OC1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2([C@@H]2[C@H]1C2)C)OC2OCCCC2 | C27H42O4
